data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3699,4222,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[O+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:16]([C:17]#[N:18])([C:19]#[N:20])[O:15][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,12.514590110386733,-37.99716723897043
2100,2328,[CH3:20][C:21](=[O:22])[CH:23]=[O+:24][N-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Cl:9])([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Cl:9])([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:23]([C:21]([CH3:20])=[O:22])[O:24][N:25]2[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,6.658449520709103,-64.60649527963858
131,147,[CH3:7][O:8][C:9](=[O:10])[N:11]=[NH+:12][N-:13][C:14](=[O:15])[O:16][CH3:17].[CH:1]#[C:2][C:3](=[O:4])[O:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[O:5][CH3:6])[N:13]([C:14](=[O:15])[O:16][CH3:17])[NH:12][N:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,18.92310249955024,-38.11233405136368
3867,4425,[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17](=[O:18])[NH:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:16]([C:17](=[O:18])[NH:19][CH3:20])[N:14]([CH3:15])[CH:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,10.738841726525983,-33.13601643279744
2885,3205,[CH3:19][NH:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1)[NH:24][C:25]2([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,water,298.15,21.788864267389243,-34.783648977193344
2022,2245,[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2.[N:16]#[C:17][C:18]#[N+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:19]=[C:18]2[C:17]#[N:16],water,298.15,14.399384929104118,-23.407016976151628
3088,3475,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C:6]#[N+:7][C-:8]([C:9]#[N:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH2:1]1[CH2:2][C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:7]=[C:6]1[C:4]([CH3:3])=[O:5],water,298.15,15.152133929551615,-43.28793407005749
2213,2454,[CH3:13][O:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[C:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32].[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:24]([CH3:25])[C:26]3([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32],water,298.15,31.95913431885057,-29.445975076582304
566,620,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:13]([C:11]([CH3:10])=[O:12])[NH:14][C:15]2([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,20.95215685390104,-31.698599321552948
5201,5902,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21]2([C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,3.674231789185012,-36.052187038333
40,47,[CH3:10][C:11](=[O:12])[N:13]=[NH+:14][O-:15].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[N:13]([C:11]([CH3:10])=[O:12])[NH:14][O:15]1,water,298.15,30.527135917761505,-23.511089891644364
